US05324711
Preparation of 2-[2-amino-5-(benzyloxy)anilino]propionaldehyde dimethyl acetal
A solution of 2-[5-(benzyloxy)-2-nitroanilino]propionaldehyde dimethyl acetal (24.0 g, 0.0715 mole) in tetrahydrofuran is treated with Raney nickel (10 g) and placed in a Parr shaker hydrogenation apparatus under 20.5-37 psig hydrogen at ambient temperature. After the uptake of the theoretical quantity of hydrogen, the mixture is filtered and the filtrate is concentrated in vacuo to afford the title product as a dark-colored syrup. The product is identified by infrared and mass spectral analyses.

reactant | 2-[5-(benzyloxy)-2-nitroanilino]propionaldehyde dimethyl acetal | 0.0715 mole, 24.0 g | COC(C(C)NC1=C(C=CC(=C1)OCC1=CC=CC=C1)[N+](=O)[O-])OC | C18H22N2O5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | 2-[2-amino-5-(benzyloxy)anilino]propionaldehyde dimethyl acetal | COC(C(C)NC1=C(C=CC(=C1)OCC1=CC=CC=C1)N)OC | C18H24N2O3
